datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC1CC[NH:10]C(C)(C)C1.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>CC1CC[NH+:10]([H:20])C(C)(C)C1.O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"Cc1nn(C)c([O:21][H:20])c1Cc1ccccc1.OCC(S)C[S-:10]>>Cc1nn(C)c([O-:21])c1Cc1ccccc1.OCC(S)C[S:10][H:20] 10=20;20,21=21",
"CC(C)(O)[O-:10].C[C:21](C1=CC=C([N+](=O)[O-])C=C1)([N+](=O)[O-])[H:20]>>CC(C)(O)[O:10][H:20].C[C-:21](C1=CC=C([N+](=O)[O-])C=C1)[N+](=O)[O-] 10=20;20,21=21",
"CCC[NH:10]CCC.N#CC1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>CCC[NH+:10](CCC)[H:20].N#CC1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
"CC(C)(C)OOCCC(=O)[O-:10].NC(=O)Cc1ccc(C(=O)[O:21][H:20])cc1>>CC(C)(C)OOCCC(=O)[O:10][H:20].NC(=O)Cc1ccc(C(=O)[O-:21])cc1 10=20;20,21=21",
"CN(C)S(=O)(=O)c1ccc([NH2:10])cc1.COc1cc(S(C)=O)ccc1-c1nc2c[n+:21]([H:20])ccc2[nH]1>>CN(C)S(=O)(=O)c1ccc([NH2+:10][H:20])cc1.COc1cc(S(C)=O)ccc1-c1nc2c[n:21]ccc2[nH]1 10=20;20,21=21",
"CC(C)(C)C(=O)[O-:10].O=C([O-])c1ccc(O)c2c1ccc[n+:21]2[H:20]>>CC(C)(C)C(=O)[O:10][H:20].O=C([O-])c1ccc(O)c2c1ccc[n:21]2 10=20;20,21=21",
"CC(C)C[NH:10]CC(=O)[O-].O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CC(C)C[NH+:10](CC(=O)[O-])[H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CN1C=CC(=[S:10])c2ccccc21.Cc1[nH]ccc1C(=O)[O:21][H:20]>>CN1C=CC(=[S+:10][H:20])c2ccccc21.Cc1[nH]ccc1C(=O)[O-:21] 10=20;20,21=21",
"C[S+](C)c1cccc([O-:10])c1.Nc1ncccc1[O:21][H:20]>>C[S+](C)c1cccc([O:10][H:20])c1.Nc1ncccc1[O-:21] 10=20;20,21=21",
"C[Si](C)(C)C[NH:10]c1ccccc1.Nc1cc[nH+]c2c1ncn2CCOCP(=O)(O)[O:21][H:20]>>C[Si](C)(C)C[NH+:10](c1ccccc1)[H:20].Nc1cc[nH+]c2c1ncn2CCOCP(=O)(O)[O-:21] 10=20;20,21=21",
"C=C(C)C=C(C(=O)[O-:10])c1ccc([N+](=O)[O-])cc1.O=S(=O)([N-]c1ncccn1)c1ccc([O:21][H:20])cc1>>C=C(C)C=C(C(=O)[O:10][H:20])c1ccc([N+](=O)[O-])cc1.O=S(=O)([N-]c1ncccn1)c1ccc([O-:21])cc1 10=20;20,21=21",
"C[N+](C)(C)CC(O)CC(=O)[O-:10].Nc1n(-c2cccc([N+](=O)[O-])c2)nn[n+:21]1[H:20]>>C[N+](C)(C)CC(O)CC(=O)[O:10][H:20].Nc1n(-c2cccc([N+](=O)[O-])c2)nn[n:21]1 10=20;20,21=21",
"Brc1c[n+](CCC[NH2+:21][H:20])cc2ccccc12.c1cnc2nc[n:10]cc2n1>>Brc1c[n+](CCC[NH2:21])cc2ccccc12.c1cnc2nc[n+:10]([H:20])cc2n1 10=20;20,21=21",
"C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1.C[NH:10]CC(=O)[O-]>>C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1.C[NH+:10](CC(=O)[O-])[H:20] 10=20;20,21=21",
"CCCCN(CCCC)c1c(C)cc(-c2ccccc2)n[n+:21]1[H:20].O=C(c1ccc[n+]([O-])c1)[O-:10]>>CCCCN(CCCC)c1c(C)cc(-c2ccccc2)n[n:21]1.O=C(c1ccc[n+]([O-])c1)[O:10][H:20] 10=20;20,21=21",
"COP(=O)(NS(C)(=O)=O)[O-:10].O=P(C1CCCCC1)(C1CCCCC1)[O:21][H:20]>>COP(=O)(NS(C)(=O)=O)[O:10][H:20].O=P(C1CCCCC1)(C1CCCCC1)[O-:21] 10=20;20,21=21",
"CC(=S)[N:21](c1ccc([N+](=O)[O-])cc1)[H:20].NC(=S)C[NH2:10]>>CC(=S)[N-:21]c1ccc([N+](=O)[O-])cc1.NC(=S)C[NH2+:10][H:20] 10=20;20,21=21",
"CC1(C)S[C@H]2[C@@H](NC(=O)Cc3ccc(O)cc3)C(=O)N2[C@@H]1C(=O)[O-:10].Cc1cc(Cc2cc(O)ccc2C)c([O:21][H:20])c([N+](=O)[O-])c1>>CC1(C)S[C@H]2[C@@H](NC(=O)Cc3ccc(O)cc3)C(=O)N2[C@@H]1C(=O)[O:10][H:20].Cc1cc(Cc2cc(O)ccc2C)c([O-:21])c([N+](=O)[O-])c1 10=20;20,21=21",
"CC[N:10]1CC(O[Si](C)(C)C)C1.O=C(O)c1ccc[o+:21]1[H:20]>>CC[N+:10]1([H:20])CC(O[Si](C)(C)C)C1.O=C(O)c1ccc[o:21]1 10=20;20,21=21",
"C=CCC1(C2C=CCCC2)C(=O)NC(=S)[N:21]([H:20])C1=O.CNc1cccc[n:10]1>>C=CCC1(C2C=CCCC2)C(=O)NC(=S)[N-:21]C1=O.CNc1cccc[n+:10]1[H:20] 10=20;20,21=21",
"Cc1ccc(S(=O)(=O)N(CC[NH2+]CC(=O)[O-:10])CC(=O)O)cc1.O=[N+]([O-])c1ccc2[nH]c(CCl)[n+:21]([H:20])c2c1>>Cc1ccc(S(=O)(=O)N(CC[NH2+]CC(=O)[O:10][H:20])CC(=O)O)cc1.O=[N+]([O-])c1ccc2[nH]c(CCl)[n:21]c2c1 10=20;20,21=21",
"Brc1cccc(Br)c1[NH2+:21][H:20].CN1C2CCC(CC2)[N:10]1C>>Brc1cccc(Br)c1[NH2:21].CN1C2CCC(CC2)[N+:10]1(C)[H:20] 10=20;20,21=21",
"C[NH+]1C[C@@H](C(=O)[O-:10])C=C2c3cccc4[nH]cc(c34)C[C@@H]21.O=C([O-])c1cc2ccccc2[n+:21]([H:20])c1>>C[NH+]1C[C@@H](C(=O)[O:10][H:20])C=C2c3cccc4[nH]cc(c34)C[C@@H]21.O=C([O-])c1cc2ccccc2[n:21]c1 10=20;20,21=21",
"CO/C(C)=C\C(=O)[O-:10].O=C(C12CC3CC(CC(C3)C1)C2)[O:21][H:20]>>CO/C(C)=C\C(=O)[O:10][H:20].O=C(C12CC3CC(CC(C3)C1)C2)[O-:21] 10=20;20,21=21",
"O=C(c1ccccc1)c1ccc([O-:10])c(O)c1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=C(c1ccccc1)c1ccc([O:10][H:20])c(O)c1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC[NH:10]CC[Se-].NNC(=O)c1cccc([NH2+:21][H:20])c1>>CC[NH+:10](CC[Se-])[H:20].NNC(=O)c1cccc([NH2:21])c1 10=20;20,21=21",
"COc1ccc(C(=O)[O-:10])cc1C.O=C(O)CC(=O)CC(=O)/C=C/C(=O)[O:21][H:20]>>COc1ccc(C(=O)[O:10][H:20])cc1C.O=C(O)CC(=O)CC(=O)/C=C/C(=O)[O-:21] 10=20;20,21=21",
"COC(=O)c1c2ccccc2[n+:21]([H:20])c2ccccc12.c1coc(C2C[N:10]3CCC2CC3)c1>>COC(=O)c1c2ccccc2[n:21]c2ccccc12.c1coc(C2C[N+:10]3([H:20])CCC2CC3)c1 10=20;20,21=21",
"CC[N+:21](CC)(Cc1cc(OC)ccc1O)[H:20].Cc1ccc([NH:10]CCS)cc1>>CC[N:21](CC)Cc1cc(OC)ccc1O.Cc1ccc([NH+:10](CCS)[H:20])cc1 10=20;20,21=21",
"COc1cccc(OC)c1-c1nc2c[n+:21]([H:20])ccc2[nH]1.O=S(=O)(Cc1ccccc1)c1ncn[n-:10]1>>COc1cccc(OC)c1-c1nc2c[n:21]ccc2[nH]1.O=S(=O)(Cc1ccccc1)c1ncn[n:10]1[H:20] 10=20;20,21=21",
